US07579341B2
2b) (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(ethoxycarbonylmethyl-amino)-1,4′-bipiperidinyl-1′-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
0.5 mL TFA were added to a solution of 330 mg (0.36 mmol) (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(tert-butoxycarbonyl-ethoxycarbonyl-methylamino)-1,4′-bipiperidinyl-1′-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 5 mL DCM cooled to 0° C. and the reaction mixture was stirred overnight at RT. It was evaporated down i. vac. and the residue was purified by HPLC. The fractions containing the product were combined and freeze-dried.

reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(tert-butoxycarbonyl-ethoxycarbonyl-methylamino)-1,4′-bipiperidinyl-1′-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.36 mmol, 330 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCC(CC1)N(CC(=O)OC(C)(C)C)C(=O)OCC)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C44H59ClF3N7O8
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(ethoxycarbonylmethyl-amino)-1,4′-bipiperidinyl-1′-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCC(CC1)NCC(=O)OCC)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C39H51ClF3N7O6
